US07696200B2
3,4-Dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester (300 mg, 0.98 mmol) was dissolved in dichloromethane (20 mL) and pyridine (2 mL). N,N-Diisopropylethylamine (127 mg, 0.98 mmol) and 5-chloro-2-methoxy-benzensulfonyl chloride (300 mg, 1.24 mmol) were added, and the mixture was stirred at room temperature overnight. The solvent was evaporated, and the crude compound was purified by flash chromatography, yielding 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester as a light yellow gum, 435 mg (87%), δH (300 MHz; CDCl3) 8.17 (1H, s), 8.05 (1H, s), 7.82 (1H, d), 7.74 (1H, d), 7.46 (1H, dd), 6.82 (1H, d), 4.35 (2H, q), 3.93 (2H, m), 3.71 (2H, m), 3.56 (3H, s), 1.48 (9H, s), 1.39 (3H, t).

reactant | 3,4-Dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester | 0.98 mmol, 300 mg | C(C)OC(=O)C=1C=C2NCCN(C2=CC1)C(=O)OC(C)(C)C | C16H22N2O4
reactant | N,N-Diisopropylethylamine | 0.98 mmol, 127 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-chloro-2-methoxy-benzensulfonyl chloride | 1.24 mmol, 300 mg | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester | C(C)OC(=O)C=1C=C2N(CCN(C2=CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C23H27ClN2O7S
